* Schematics Netlist *



X_U1A         SET Q Q-NEG $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         Q-NEG RESET Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_RESET         STIM(1,1)
+ $G_DPWR $G_DGND
+ RESET 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 100n 0  
U_SET         STIM(1,1)
+ $G_DPWR $G_DGND
+ SET 
+ IO_STM
+ IO_LEVEL=0
+  0n 0  
+ 100n 1  
