* Schematics Netlist *



X_U2A         SET CK EN Latch-SR-NAND_SET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         RESET CK EN Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_EN         STIM(1,1)
+ $G_DPWR $G_DGND
+ EN 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 250n 0  
+ 350n 1  
U_CK         STIM(1,1)
+ $G_DPWR $G_DGND
+ CK 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 130n 0  
+ 150n 1  
X_Latch-SR-NAND_U1A         Latch-SR-NAND_SET Q-NEG Q $G_DPWR $G_DGND 7400
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Latch-SR-NAND_U3A         Q Latch-SR-NAND_RESET CK Q-NEG $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_SET         STIM(1,1)
+ $G_DPWR $G_DGND
+ SET 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 100n 0  
+ 200n 1  
+ 300n 0 
U_RESET         STIM(1,1)
+ $G_DPWR $G_DGND
+ RESET 
+ IO_STM
+ IO_LEVEL=0
+  0n 0  
+ 100n 1  
+ 200n 0  
+ 300n 1 
