* Schematics Netlist *



X_U1A         D SR-Sync-1_RESET $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_EN         STIM(1,1) $G_DPWR $G_DGND ENABLE IO_STM IO_LEVEL=0 
+ 0 0
+ +100n 1
+REPEAT FOREVER
+ +100n 0
+  +100n 1
+ ENDREPEAT
X_U2A         ENABLE SR-Sync-2_EN $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-1_U2A         D CLEAR ENABLE SR-Sync-1_Latch-SR-NAND_SET $G_DPWR
+  $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-1_U1A         SR-Sync-1_RESET CLEAR ENABLE
+  SR-Sync-1_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-1_Latch-SR-NAND_U1A         SR-Sync-1_Latch-SR-NAND_SET
+  SR-Sync-2_RESET SR-Sync-2_SET $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-1_Latch-SR-NAND_U3A         SR-Sync-2_SET
+  SR-Sync-1_Latch-SR-NAND_RESET CLEAR SR-Sync-2_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-2_U2A         SR-Sync-2_SET CLEAR SR-Sync-2_EN
+  SR-Sync-2_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-2_U1A         SR-Sync-2_RESET CLEAR SR-Sync-2_EN
+  SR-Sync-2_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-2_Latch-SR-NAND_U1A         SR-Sync-2_Latch-SR-NAND_SET Q-NEG Q
+  $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_SR-Sync-2_Latch-SR-NAND_U3A         Q SR-Sync-2_Latch-SR-NAND_RESET CLEAR
+  Q-NEG $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CL         STIM(1,1)
+ $G_DPWR $G_DGND
+ CLEAR 
+ IO_STM
+ IO_LEVEL=0
+  0n 0  
+ 20n 1  
U_D         STIM(1,1)
+ $G_DPWR $G_DGND
+ D 
+ IO_STM
+ IO_LEVEL=0
+  0n 0  
+ 130n 1  
+ 260n 0  
+ 320n 1 
+ 500n 0  
+ 650n 1  
