* Schematics Netlist *



X_U3A         Q $N_0001 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0001 $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         CK-EN $N_0002 Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_CK-EN         STIM(1,1)
+ $G_DPWR $G_DGND
+ CK-EN 
+ IO_STM
+ IO_LEVEL=0
+  0n 0  
+ 150n 1  
