* Schematics Netlist *



X_2-Bit_Reg_B_FlipFlop_D-1_U1A         Data_middle-1
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_RESET $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_U2A         Clock
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_EN $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_U2A         Data_middle-1 Reset Clock
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_U1A        
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_RESET Reset Clock
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_U1A        
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_SET
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_RESET
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_SET $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_U3A        
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_SET
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_U2A        
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_SET Reset
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_EN
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_U1A        
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_RESET Reset
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_EN
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_U1A        
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_SET
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_Q Data_out-1 $G_DPWR $G_DGND
+  7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_U3A         Data_out-1
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_B_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_Q $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_U1A         Data_middle-0
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_RESET $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_U2A         Clock
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_EN $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_U2A         Data_middle-0 Reset Clock
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_U1A        
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_RESET Reset Clock
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_U1A        
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_SET
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_RESET
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_SET $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_U3A        
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_SET
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_U2A        
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_SET Reset
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_EN
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_U1A        
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_RESET Reset
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_EN
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_U1A        
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_SET
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_Q Data_out-0 $G_DPWR $G_DGND
+  7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_U3A         Data_out-0
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_B_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_Q $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_U1A         Data_in1
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_RESET $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_U2A         Clock
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_EN $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_U2A         Data_in1 Reset Clock
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_U1A        
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_RESET Reset Clock
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_U1A        
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_SET
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_RESET
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_SET $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_U3A        
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_SET
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-1_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_U2A        
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_SET Reset
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_EN
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_U1A        
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_RESET Reset
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_EN
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_U1A        
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_SET
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_Q Data_middle-1 $G_DPWR
+  $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_U3A         Data_middle-1
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_A_FlipFlop_D-1_SR-Sync-2_Latch-SR-NAND_Q $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_U1A         Data_in0
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_RESET $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_U2A         Clock
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_EN $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_U2A         Data_in0 Reset Clock
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_U1A        
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_RESET Reset Clock
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_U1A        
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_SET
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_RESET
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_SET $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_U3A        
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_SET
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-1_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_RESET $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_U2A        
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_SET Reset
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_EN
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_SET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_U1A        
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_RESET Reset
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_EN
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_RESET $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_U1A        
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_SET
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_Q Data_middle-0 $G_DPWR
+  $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_U3A         Data_middle-0
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_RESET Reset
+  2-Bit_Reg_A_FlipFlop_D-0_SR-Sync-2_Latch-SR-NAND_Q $G_DPWR $G_DGND 7410
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_Reset         STIM(1,1)
+ $G_DPWR $G_DGND
+ Reset 
+ IO_STM
+ IO_LEVEL=0
+  0n 1  
+ 10n 0  
U_IN         STIM(4,1111)
+ $G_DPWR $G_DGND
+ Data_in3 Data_in2 Data_in1 Data_in0 
+ IO_STM
+ IO_LEVEL=0
+  0n 0011  
+ 300n 0001  
+ 450n 0000  
U_Clock         STIM(1,1) $G_DPWR $G_DGND Clock IO_STM IO_LEVEL=0 
+ 0 1
+ +80ns 0
+REPEAT FOREVER
+ +80ns 1
+  +80ns 0
+ ENDREPEAT
